US07642264B2
2-Chloro-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine
The title compound was prepared from 4-(3,4-dichloro-phenyl)-6-methyl-1H-pyrimidin-2-one (2.51 g, 9.84 mmol) and phosphoroxychloride (35 mL) according to the general procedure I. Obtained as a brown solid (1.55 g, 58%). MS (EI) 272.1 [(M)+]; mp 123° C. (dec.).

reactant | 4-(3,4-dichloro-phenyl)-6-methyl-1H-pyrimidin-2-one | 9.84 mmol, 2.51 g | ClC=1C=C(C=CC1Cl)C1=NC(NC(=C1)C)=O | C11H8Cl2N2O
reactant | phosphoroxychloride | 35 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C | C11H7Cl3N2
